US05910506
Synthesis of [5-(3,5-Dichlorophenylthio)-4-isopropyl-1-methyl-1H-imidazol-2-yl]methanol (Compound I-8)
In 4 ml of ethanol was dissolved 440 mg (1.3 mmol)of 5-(3,5-dichlorophenylthio)-4-isopropyl-1-methyl-1H-imidazole-2-carbaldehyde (Compound I-6), followed by addition of 51 mg (1.3 mmol)of sodium borohydride at room temperature. After 10 minutes, the mixture was neutralized by acetic acid and sodium bicarbonate, and extracted with methylene chloride. The organic layer was washed with water and dried over sodium sulfate. The solvent was then concentrated under reduced pressure and the residue was recrystallized by isopropyl ether:n-hexane to provide 340 mg (yield 77%)of Compound I-8. mp 157 to 158° C.

reactant | 5-(3,5-dichlorophenylthio)-4-isopropyl-1-methyl-1H-imidazole-2-carbaldehyde | 1.3 mmol, 440 mg | ClC=1C=C(C=C(C1)Cl)SC1=C(N=C(N1C)C=O)C(C)C | C14H14Cl2N2OS
reactant | sodium borohydride | 1.3 mmol, 51 mg | [BH4-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 4 ml | C(C)O | C2H6O
solvent | n-hexane | CCCCCC | C6H14
product | [5-(3,5-Dichlorophenylthio)-4-isopropyl-1-methyl-1H-imidazol-2-yl]methanol | 340 mg, yield 77% | ClC=1C=C(C=C(C1)Cl)SC1=C(N=C(N1C)CO)C(C)C | C14H16Cl2N2OS
